US05910601
a) Preparation of 5-Chloro-2-(3.4-dimethoxyphenyl)-2-isopropylpentanenitrile
2-(3,4-dimethoxyphenyl)-3-methylbutanenitrile (1.21 g, 5.52 mmol) was added to a suspension of sodium amide (0.59 g, 14.4 mmol) in toluene (12 ml). The mixture was then heated to reflux for 2 hours before the addition of 1-chloro-3-iodopropane (0.9 ml, 8.3 mmol). The mixture was cooled to room temperature over 80 minutes, and worked up by addition of water. The product was extracted with methyl-t-butyl ether (MTBE). After usual work-up, including drying the organic extract using MgSO4 and concentrating under reduced pressure the product was purified on column chromatography eluting with (ethyl acetate: light petroleum (b.p. 40 -60° C.) =1:2), to give 1.4g (82% yield) of the required product.

reactant | 2-(3,4-dimethoxyphenyl)-3-methylbutanenitrile | 5.52 mmol, 1.21 g | COC=1C=C(C=CC1OC)C(C#N)C(C)C | C13H17NO2
reactant | sodium amide | 14.4 mmol, 0.59 g | [NH2-].[Na+]
reactant | 1-chloro-3-iodopropane | 8.3 mmol, 0.9 ml | ClCCCI | C3H6ClI
reactant | water | O | H2O
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-2-(3.4-dimethoxyphenyl)-2-isopropylpentanenitrile | 1.4g, 82% yield | ClCCCC(C#N)(C(C)C)C1=CC(=C(C=C1)OC)OC | C16H22ClNO2
